US05962479
4-(1-Ethyl-propoxy)-2,5-dimethyl-6-(2,4,6-trimethyl-benzyl)-pyrimidine
The title compound was prepared by the method analogous to that in Example 32 starting with 4-Chloro-2,5-dimethyl-6-(2,4,6-trimethyl-benzyl)-pyrimidine and 3-pentanol. White crystals, mp. 82-84° C.

reactant | 4-Chloro-2,5-dimethyl-6-(2,4,6-trimethyl-benzyl)-pyrimidine | ClC1=NC(=NC(=C1C)CC1=C(C=C(C=C1C)C)C)C | C16H19ClN2
reactant | 3-pentanol | CCC(CC)O | C5H12O
product | 4-(1-Ethyl-propoxy)-2,5-dimethyl-6-(2,4,6-trimethyl-benzyl)-pyrimidine | C(C)C(CC)OC1=NC(=NC(=C1C)CC1=C(C=C(C=C1C)C)C)C | C21H30N2O
